US05234936
The preparation of 5,6,7,8-tetrahydro-2-trifluoromethyl-4-quinazolone
To 10 mL of absolute ethanol under a nitrogen atmosphere was added 0.15 g of sodium metal. After all the sodium had reacted, 1.00 g of 2-carboethoxycyclohexanone was added followed by 0.78 g of 85% trifluoroacetamidine. The reaction was refluxed gently overnight. The reaction was cooled to room temperature and all solvents were removed by evaporation. The pH of the residue was adjusted to 6 with dilute hydrochloric acid and refluxed briefly and allowed to cool. The resulting solid was collected. (0.73 g, 57%): 1H NMR (DMSO-d6, 300 MHz) δ 13.0 (s, 1H), 2.78 (m, 2H), 2.45 (m, 2H), 1.78 (m, 4H).

reactant | sodium | 0.15 g | [Na] | Na
reactant | 2-carboethoxycyclohexanone | 1.00 g | C(=O)(OCC)C1C(CCCC1)=O | C9H14O3
reactant | trifluoroacetamidine | 0.78 g | FC(C(=N)N)(F)F | C2H3F3N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5,6,7,8-tetrahydro-2-trifluoromethyl-4-quinazolone | FC(C1=NC=2CCCCC2C(N1)=O)(F)F | C9H9F3N2O
